US05571775
10. Preparation of N-(2,6-Dichlorophenyl)-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamid
2-Chlorosulfonyl-7-methyl[1,2,4]triazolo[1,5-a]pyridine (1.2 g, 0.0052 mol), 2,6-dichloroaniline (1.7 g, 0.010 mol) and pyridine (0.40 g, 0.0052 mol) were dissolved in anhydrous acetonitrile (20 mL). Dimethyl sulfoxide (60 μL, 0.0008 mol) was added with stirring. The reaction was allowed to stir overnight. The volatiles were removed by evaporation under reduced pressure and the residue obtained was taken up in dichloromethane. The resulting mixture was washed well with dilute aqueous hydrochloric acid and the organic solution phase was recovered and concentrated by evaporation under reduced pressure. The resulting residue was triturated with hexane and the solids that formed were recovered by filtration and dried to obtain 0.7 g (38 percent of theory) of the title compound as a tan powder melting at 232°-234° C.

reactant | 2-Chlorosulfonyl-7-methyl[1,2,4]triazolo[1,5-a]pyridine | 0.0052 mol, 1.2 g | ClS(=O)(=O)C1=NN2C(C=C(C=C2)C)=N1 | C7H6ClN3O2S
reactant | 2,6-dichloroaniline | 0.010 mol, 1.7 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | pyridine | 0.0052 mol, 0.40 g | N1=CC=CC=C1 | C5H5N
reactant | Dimethyl sulfoxide | 0.0008 mol, 60 μL | CS(=O)C | C2H6OS
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,6-Dichlorophenyl)-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamid | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2)C)=N1 | C13H10Cl2N4O2S
